US04725601
To a solution of 8-benzyloxy-3-(2-propynyloxymethyl)-2-methylimidazo[1,2-a]pyridine (1 g) in tetrahydrofuran (10 ml) was added dropwise 10% solution of n-butyllithium in n-hexane (2.09 ml) at -60° C. under a nitrogen atmosphere. After being stirred for 10 minutes the solution was treated with dry ice (1.4 g), allowed to warm to room temperature, and acidified with diluted acetic acid. The resulting precipitates were collected by filtration, washed with water, and recrystallized from methanol to give 8-benzyloxy-3-(3-carboxy-2-propynyloxymethyl)-2-methylimidazo[1,2-a]pyridine (0.67 g).

reactant | 8-benzyloxy-3-(2-propynyloxymethyl)-2-methylimidazo[1,2-a]pyridine | 1 g | C(C1=CC=CC=C1)OC=1C=2N(C=CC1)C(=C(N2)C)COCC#C | C19H18N2O2
reactant | n-butyllithium | C(CCC)[Li]
reactant | dry ice | 1.4 g | C(=O)=O | CO2
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | n-hexane | 2.09 ml | CCCCCC | C6H14
product | 8-benzyloxy-3-(3-carboxy-2-propynyloxymethyl)-2-methylimidazo[1,2-a]pyridine | 0.67 g | C(C1=CC=CC=C1)OC=1C=2N(C=CC1)C(=C(N2)C)COCC#CC(=O)O | C20H18N2O4
